US04891375
A. 4-(4-(4-Chlorobutyl)phenyl)-1,2,3-thiadiazole
To a 125 ml round-bottomed flask equipped with condenser and N2 inlet were added 6.25 g (29.65 mmol) p-(4-chlorobutyl)acetophenone, 5.57 g (29.65 mmol) tosylhydrazine, and 50 ml ethanol. The reaction was refluxed 3.5 hours, cooled, and evaporated. The residue was taken up in 23.4 ml (326 mmol) thionyl chloride and stirred at room temperature for 3 hours. The reaction mixture was evaporated and the residue chromatographed on silica gel using hexane/methylene chloride as eluent to afford an oil, 6.1 g (81.5%). NMR (CDCl3): 1.84 (m, 4H), 2.73 (m, 2H), 3.58 (m, 2H), 7.3 and 7.95 (m, 4H), 8.59 (s, 1H).

reactant | p-(4-chlorobutyl)acetophenone | 29.65 mmol, 6.25 g | ClCCCCC1=CC=C(C=C1)C(C)=O | C12H15ClO
reactant | tosylhydrazine | 29.65 mmol, 5.57 g | S(=O)(=O)(C1=CC=C(C)C=C1)NN | C7H10N2O2S
reactant | thionyl chloride | 326 mmol, 23.4 ml | S(=O)(Cl)Cl | Cl2OS
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-(4-(4-Chlorobutyl)phenyl)-1,2,3-thiadiazole | ClCCCCC1=CC=C(C=C1)C=1N=NSC1 | C12H13ClN2S
